US06479506B1
Dimethyl malonate (0.31 ml, 2.7 mmol) was added at room temperature to a stirred solution of sodium (0.065 g, 2.7 mmol) dissolved in dry methanol (8 ml) under nitrogen. A solution of 1-phenyl-4-formyl-5-amino-1,2,3-triazole (Bull. Soc. Chim. Belg., 1988, 97, 85-86) (0.50 g, 2.66 mmol) in dry methanol (4 ml) was added and the mixture was stirred for 18 h. The white suspension was diluted with water (50 ml) and the solids were collected and dissolved in dichloromethane-methanol (2:1, 100 ml). The solution was washed with aqueous citric acid (1 M, 50 ml), dried (Na2SO4), filtered and concentrated to give 3-phenyl-5-oxo-6-methoxycarbonyl-4H-1,2,3-triazolo[4,5-b]pyridine (0.353 g, 49%) as a white powder. δH (360 MHz; DMSO) 3.89 (3H, s), 7.56 (1H, t, J=7.5), 7.68 (2H, dd, J=7.5 and 7.5), 8.09 (2H, d, J=7.5), 8.92 (1H, s) and 12.67 (1H, br s); m/z (ES+) 271 (M+H+).

reactant | Dimethyl malonate | 2.7 mmol, 0.31 ml | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium | 2.7 mmol, 0.065 g | [Na] | Na
reactant | 1-phenyl-4-formyl-5-amino-1,2,3-triazole | 2.66 mmol, 0.50 g | C1(=CC=CC=C1)N1N=NC(=C1N)C=O | C9H8N4O
solvent | methanol | 8 ml | CO | CH4O
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 3-phenyl-5-oxo-6-methoxycarbonyl-4H-1,2,3-triazolo[4,5-b]pyridine | 0.353 g, 49% | C1(=CC=CC=C1)N1N=NC2=C1NC(C(=C2)C(=O)OC)=O | C13H10N4O3
